US04254146
3-(4-Chlorobenzoyl)-2-nitrobenzeneacetic Acid
A solution of 6.9 g (0.017 mol) of 2-[3-(4-chlorobenzoyl)-2-nitrophenyl]propanedioic acid in 40 ml of 20% sulfuric acid and 40 ml of acetic acid was heated at reflux under a nitrogen atmosphere overnight. The reaction mixture was cooled, and the solid which precipitated was collected by filtration and stirred with 150 ml of 5% sodium bicarbonate. The mixture was filtered and the filtrate was made acidic with concentrated sulfuric acid. The resulting white solid was collected by filtration and recrystallized from aqueous isopropyl alcohol to yield 3.2 g (61%) of white needles, m.p. 164°-165° C.

reactant | 2-[3-(4-chlorobenzoyl)-2-nitrophenyl]propanedioic acid | 0.017 mol, 6.9 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)C(C(=O)O)C(=O)O)[N+](=O)[O-])C=C1 | C16H10ClNO7
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Chlorobenzoyl)-2-nitrobenzeneacetic Acid | 3.2 g, 61% | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CC(=O)O)[N+](=O)[O-])C=C1 | C15H10ClNO5
